US06939861B2
(±)-3-[(2S*,3R*)-5-chloro-3-hydroxy-2-methylpentanoyl]-2-benzoxazolone
A vigorously stirred solution of 3-propionyl-2-benzoxazolone (19.1 g) in 200 mL of CH2Cl2 at 0° C. was treated with titanium tetrachloride (12.0 mL) followed by slow addition of triethylamine (16.7 mL). After stirring for 30 minutes, the dark red solution was treated with 60 mL of 1.8 M 3-chloropropanal in CH2Cl2 for 30 minutes, then quenched by addition of 200 mL of 2 N HCl. The phases were separated, and the organic phase was filtered through a pad of silica gel. The aqueous phase was extracted with ether, and the extract was used to wash the pad of silica. The combined silica eluate was concentrated under reduced pressure, resulting in crystallization. The white crystals were collected by vacuum filtration and dried to provide 19.9 g of product; mp=116-117° C.

reactant | 3-propionyl-2-benzoxazolone | 19.1 g | C(CC)(=O)N1C(OC2=C1C=CC=C2)=O | C10H9NO3
reactant | triethylamine | 16.7 mL | C(C)N(CC)CC | C6H15N
reactant | 3-chloropropanal | 1.8 M, 60 mL | ClCCC=O | C3H5ClO
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | 12.0 mL | [Ti](Cl)(Cl)(Cl)Cl
product | (±)-3-[(2S*,3R*)-5-chloro-3-hydroxy-2-methylpentanoyl]-2-benzoxazolone | 19.9 g | ClCC[C@H]([C@@H](C(=O)N1C(OC2=C1C=CC=C2)=O)C)O | C13H14ClNO4
